US08754226B2
(R)—S-Ethyl 2-(benzyloxy)-2-((R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)ethanethioate (2.3 g, 7.09 mmol) was dissolved in CH2Cl2 (50 mL) and 10% palladium on carbon (0.377 g, 0.355 mmol) was added and stirred under nitrogen. Triethylsilane (1.70 mL, 10.6 mmol) was dissolved in CH2Cl2 (5 mL) and added dropwise. The reaction was allowed to stir overnight. The reaction was filtered, concentrated and purified over silica gel (5 to 10% EtOAc in hexanes) to afford a small amount of product and a large amount of starting material. The isolated starting material was subjected to the conditions described above and combined with the product isolated from the first batch to afford (R)-2-(benzyloxy)-2-((R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)acetaldehyde (750 mg, 2.84 mmol, 40% yield).

reactant | (R)—S-Ethyl 2-(benzyloxy)-2-((R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)ethanethioate | 7.09 mmol, 2.3 g | C(C1=CC=CC=C1)O[C@@H](C(SCC)=O)[C@H]1OC(OC1=O)(C)C | C16H20O5S
reactant | Triethylsilane | 10.6 mmol, 1.70 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium on carbon | 0.355 mmol, 0.377 g | [Pd] | Pd
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(benzyloxy)-2-((R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)acetaldehyde | 2.84 mmol, 750 mg, 40% yield | C(C1=CC=CC=C1)O[C@@H](C=O)[C@H]1OC(OC1=O)(C)C | C14H16O5
